US06890940B2
1,3-Bis[4-[2-(3,4,5-trimethoxyphenyl)-5-pyridyl]-1-piperazinyl]propane tetrahydrochloride
To a solution of 1,3-bis[4-[2-(3,4,5-trimethoxyphenyl)-5-pyridyl]-1-piperazinyl]propane (44.0 mg, 0.060 mmol) in methanol-methylene chloride (1:2, 3.0 mL) was added 1.0 M hydrochloric acid solution (0.30 mL, 0.30 mmol), and the reaction mixture was concentrated under reduced pressure. Ethanol (5.0 mL) was added to the residue, and the mixture was concentrated under reduced pressure. The residue was recrystallized from methanol-diethyl ether to yield the title compound as a yellow crystalline powder [melting point: 264.0° C. (decomposed)](35.0 mg, yield: 69%).

reactant | 1,3-bis[4-[2-(3,4,5-trimethoxyphenyl)-5-pyridyl]-1-piperazinyl]propane | 0.060 mmol, 44.0 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=C(C=C1)N1CCN(CC1)CCCN1CCN(CC1)C=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC | C39H50N6O6
reactant | hydrochloric acid | 0.30 mmol, 1.0 M, 0.30 mL | Cl | ClH
solvent | methanol methylene chloride | 3.0 mL | CO.C(Cl)Cl
product | 1,3-Bis[4-[2-(3,4,5-trimethoxyphenyl)-5-pyridyl]-1-piperazinyl]propane tetrahydrochloride | 35.0 mg, yield: 69% | Cl.Cl.Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=NC=C(C=C1)N1CCN(CC1)CCCN1CCN(CC1)C=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C39H50N6O6.4ClH/c1-46-34-22-28(23-35(47-2)38(34)50-5)32-10-8-30(26-40-32)44-18-14-42(15-19-44)12-7-13-43-16-20-45(21-17-43)31-9-11-33(41-27-31)29-24-36(48-3)39(51-6)37(25-29)49-4;;;;/h8-11,22-27H,7,12-21H2,1-6H3;4*1H
